US09127032B2
(Step 1: Synthesis of 4,6-Bis(3,5-dimethylphenyl)pyrimidine (abbreviation: Hdmdppm)
First, 5.97 g of 4,6-dichloropyrimidine, 12.04 g of 3,5-dimethylphenylboronic acid, 8.48 g of sodium carbonate, 0.34 g of bis(triphenylphosphine)palladium(II) dichloride (Pd(PPh3)2Cl2), 20 mL of water, and 20 mL of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone (abbreviation: DMPU) were put into a recovery flask equipped with a reflux pipe, and the air in the flask was replaced with argon. This reaction container was subjected to irradiation with microwaves (2.45 GHz, 100 W) for 60 minutes to be heated. Here, into the flask were further put 2.58 g of 3,5-dimethylphenylboronic acid, 1.78 g of sodium carbonate, 0.070 g of Pd(PPh3)2Cl2, 5 mL of water, and 5 mL of DMPU, and irradiation with microwaves (2.45 GHz, 100 W) was performed again for 60 minutes so that heating was performed.

reactant | 4,6-dichloropyrimidine | 5.97 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3,5-dimethylphenylboronic acid | 12.04 g | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 8.48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5-dimethylphenylboronic acid | 2.58 g | CC=1C=C(C=C(C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1.78 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.34 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Pd(PPh3)2Cl2 | 0.070 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMPU | 5 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | water | 5 mL | O | H2O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone | 20 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | water | 20 mL | O | H2O
product | 4,6-Bis(3,5-dimethylphenyl)pyrimidine | CC=1C=C(C=C(C1)C)C1=NC=NC(=C1)C1=CC(=CC(=C1)C)C | C20H20N2
